US06872718B1
3,5,6,7-Tetrahydro-2,2,4,8-tetramethyl-2H-furo[2,3-f]indole
2,3-Dihydro-5-hydroxy-4,7-dimethyl-6-(2-methyl-2-propenyl)-1H-indole-1-carbaldehyde (491 mg, 2.0 mmol) was dissolved in methanol (6 ml). To the solution was added concentrated hydrochloric acid (6 ml) and stirred for 3 hours with heating under reflux. The reaction mixture was cooled to 0° C., made weakly basic with 12N sodium hydroxide, and extracted with ethyl acetate. The extract was washed with saturated brine and dried over sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1) and crystallized from hexane to obtain 330 mg of the title compound.

reactant | 2,3-Dihydro-5-hydroxy-4,7-dimethyl-6-(2-methyl-2-propenyl)-1H-indole-1-carbaldehyde | 2.0 mmol, 491 mg | OC=1C(=C2CCN(C2=C(C1CC(=C)C)C)C=O)C | C15H19NO2
reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | sodium hydroxide | 12N | [OH-].[Na+]
solvent | methanol | 6 ml | CO | CH4O
product | 3,5,6,7-Tetrahydro-2,2,4,8-tetramethyl-2H-furo[2,3-f]indole | 330 mg, Yield: 76% | CC1(CC=2C(=C(C=3CCNC3C2C)C)O1)C | C14H19NO
